US04044141
Analogously to Example 1 heating a solution of 75 mmols of 3'-nitrobenzylideneacetoacetic acid isoporpyl ester and 75 mmols of β-aminocrotonic acid benzyl ester in 120 ml of isopropanol gave 2,6-dimethyl-3-isopropoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid benzyl ester of melting point 121° C (from ethanol).

reactant | 2,6-dimethyl-3-isopropoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C=1C(C(=C(NC1C)C)C(=O)OC(C)C)C1=CC(=CC=C1)[N+](=O)[O-] | C25H26N2O6
reactant | ethanol | C(C)O | C2H6O
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | β-aminocrotonic acid benzyl ester | 75 mmols, Yield: 71% | C(C1=CC=CC=C1)OC(\C=C(\C)/N)=O | C11H13NO2
